US04697020
To liberate the base, 52.4 g (0.222 Mol) of 3-(1-methylallyl)-5-methyl-2,4-thiazolidinedione-2-hydrazone hydrochloride is dissolved in 150 ml of water, and the solution saturated, with ice cooling and stirring, with potassium carbonate. The oil which precipitates is taken up in a mixture of 100 ml of methylene chloride and 100 ml of petroleum ether (B.P. 40°-60°), separated from the aqueous phase, and extracted by shaking with a solution of 25 g of potassium carbonate in 75 ml of water. The organic phase is separated, and concentrated in a water-jet vacuum to obtain 3-(1-methylallyl)-5-methyl-2,4-thiazolidinedione-2-hydrazone in the form of a colourless oil.

reactant | 3-(1-methylallyl)-5-methyl-2,4-thiazolidinedione-2-hydrazone hydrochloride | 0.222 Mol, 52.4 g | Cl.CC(C=C)N1C(SC(C1=O)C)=NN
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | 150 ml | O | H2O
product | 3-(1-methylallyl)-5-methyl-2,4-thiazolidinedione-2-hydrazone | CC(C=C)N1C(SC(C1=O)C)=NN | C8H13N3OS
